US05902803
8.2 ml of 1N sodium hydroxide solution are added dropwise, under a stream of nitrogen and at a temperature in the region of 20° C., to a suspension of 1 g of ethyl 9-(N-methylaminocarbonylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylate in a dioxane distilled water (100/27 by volume) mixture. The reaction is continued for 2 hours at the same temperature. The light-grey insoluble material is filtered, washed with acetone and then taken up in 15 ml of distilled water. This aqueous solution is filtered and then acidified to pH 1 with N hydrochloric acid. The precipitate formed is filtered and washed with water, with acetone and then with ethyl ether to result in 0.59 g of the trihydrate of 9-(N-methylaminocarbonylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylic acid in the form of a white powder, the melting point of which is greater than 260° C. (Analysis C17H14N4O4.3H2O; % Calculated C: 60.35, H: 4.17, N: 16.56; % Found C: 60.0, H: 4.1, N: 16.3; 1H NMR spectrum in CD3CO2D, T=300K, δ in ppm (300 MHz): 2.7 (3H, s, NCH3), 3.9 (2H, s, CH2CO), 4.1 (2H, s, CH2), 7.2 (1H, d, J=8 Hz, arom. CH), 7.4 (1H, t, J=8 Hz, arom. CH), 7.7 (1H, d, J=8 Hz, arom. CH), 8.5 (1H, s, imidazole H)).

reactant | sodium hydroxide | 1N, 8.2 ml | [OH-].[Na+]
reactant | ethyl 9-(N-methylaminocarbonylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylate | 1 g | CNC(=O)CC=1C=2CC3=C(NC(C=4N3C=C(N4)C(=O)OCC)=O)C2C=CC1 | C19H18N4O4
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 9-(N-methylaminocarbonylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylic acid | CNC(=O)CC=1C=2CC3=C(NC(C=4N3C=C(N4)C(=O)O)=O)C2C=CC1 | C17H14N4O4
